US04366172
4-(p-Chlorophenyl)-4-(dimethylamino)-1-methylcyclohexan-1-ol
To an ice-cooled solution of 10 ml. of 3 M methyl magnesium bromide in Et2O is added a solution of 1.25 g. (0.005 mole) of 4-(p-chlorophenyl)-4-(dimethylamino)cyclohexanone in 25 ml. of tetrahydrofuran. The mixture is stirred under nitrogen in the cold for one-half hour and then at room temperature for forty-eight hours. Following ice bath cooling there is added 20 ml. of saturated aqueous ammonium chloride, 10 ml. of water, 10 ml. diethyl ether and 25 ml. benzene. The organic layer is washed with 10 ml. water and 10 ml. brine and taken to dryness. The residue is chromatographed on a 1"×48" high pressure liquid chromatography column (elution with 3% MeOH in chloroform). Starting ketone is first eluted followed by a second material. Those fractions containing the second material are combined, concentrated to dryness and crystallized from CH3CN:H2O to yield 0.20 g. of the tertiary alcohol, melting point 119°-120°.

reactant | methyl magnesium bromide | 3 M | C[Mg]Br
reactant | 4-(p-chlorophenyl)-4-(dimethylamino)cyclohexanone | 0.005 mole | ClC1=CC=C(C=C1)C1(CCC(CC1)=O)N(C)C | C14H18ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Et2O | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 4-(p-Chlorophenyl)-4-(dimethylamino)-1-methylcyclohexan-1-ol | ClC1=CC=C(C=C1)C1(CCC(CC1)(O)C)N(C)C | C15H22ClNO
